US04749792
(A) N-Benzylidene-2-methyl-1-propanamine
To a stirred solution of isobutylamine (49.7 ml, 500 mmol) in dry benzene (50 ml) was added benzaldehyde (50.8 ml, 500 mmol) over a period of 20 minutes. After three hours, the water layer was separated and the stirring of the benzene solution continued overnight. Again the separated water layer was discarded. The benzene layer after further dilution with dry benzene (150 ml) was dried over a minimum amount of magnesium sulfate. After concentrating the dried benzene solution, the residue was distilled in vacuo, yielding 72.1 g of compound, boiling point 46°-48° C. at 0.1 mm of Hg.

reactant | isobutylamine | 500 mmol, 49.7 ml | C(C(C)C)N | C4H11N
reactant | benzaldehyde | 500 mmol, 50.8 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-Benzylidene-2-methyl-1-propanamine | 72.1 g | C(C1=CC=CC=C1)=NCC(C)C | C11H15N
